US04539208
Z-2-(2,2-Diethylcyclopropanecarboxamido)-2-butenoic acid
A mixture of 2.3 g of 2-ketobutyric acid, 2.0 g of 2,2-diethylcyclopropanecarboxamide, and 25 ml of toluene was heated under reflux for 16 hrs with removal of H2O by a modified Dean-Stark trap containing molecular sieves (4A). No product precipitated upon cooling. Ether (25 ml) was addd and the mixture was extracted with saturated NaHCO3 (3 times). The combined extracts were acidified with concentrated HCl. The gummy precipitate crystallized when triturated with water. Recrystallization from ethyl acetate gave 0.31 g of product, m.p. 129°-130°. The NMR spectrum was consistent with the desired structure.

reactant | 2-ketobutyric acid | 2.3 g | O=C(C(=O)O)CC | C4H6O3
reactant | 2,2-diethylcyclopropanecarboxamide | 2.0 g | C(C)C1(C(C1)C(=O)N)CC | C8H15NO
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | Z-2-(2,2-Diethylcyclopropanecarboxamido)-2-butenoic acid | 0.31 g | C(C)C1(C(C1)C(=O)N\C(\C(=O)O)=C/C)CC | C12H19NO3
